US04413002
Ethyl 2-acetyl-9-tetrahydropyranyloxy-non-7-ynoate (25.9 g) was hydrogenated over 10% Pd/C (3 g) in dry dimethoxyethane (300 ml) at atmospheric pressure and room temperature. When hydrogen absorption was completed the mixture was filtered through kieselguhr and the filtrate was evaporated in vacuo. The residual oil was chromatographed on silica gel (600 g) using chloroform as eluant. Ethyl 2-acetyl-9-tetrahydropyranyloxy-nonanoate (20 g) was obtained as a colourless oil.

reactant | Ethyl 2-acetyl-9-tetrahydropyranyloxy-non-7-ynoate | 25.9 g | C(C)(=O)C(C(=O)OCC)CCCCC#CCOC1OCCCC1 | C18H28O5
solvent | dimethoxyethane | 300 ml | C(OC)COC | C4H10O2
catalyst | Pd/C | 3 g | [Pd] | Pd
product | Ethyl 2-acetyl-9-tetrahydropyranyloxy-nonanoate | 20 g | C(C)(=O)C(C(=O)OCC)CCCCCCCOC1OCCCC1 | C18H32O5
